US07700623B2
To an ethanol (5 mL) suspension of 0.30 g of tert-butyl=[1-amino-1-(4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}phenyl)methylidene]carbamate was added 5 mL of hydrochloric acid at room temperature, which was then stirred at the same temperature for 15 hours. The solvent was distilled off under reduced pressure, and water was subsequently added to the resultant residue, which was then adjusted to pH 12.5 using a 1 mol/L sodium hydroxide aqueous solution. The precipitate was collected by filtration and washed with water to provide 0.22 g of 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine as white solid form.

reactant | [1-amino-1-(4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}phenyl)methylidene]carbamate | NC(C1=CC=C(C=C1)OCCCN1CCC(CC1)CCCOC1=CC=C(C=C1)C(=NO)N)=NC([O-])=O
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 0.22 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=NO | C25H35N5O3
